US08440666B2
2-[3-Amino-5-bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide
2-[5-Bromo-3-nitro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide (32 mg, 0.0616 mmol) in ethyl acetate (3 mL) was stirred with tin (II) chloride dihydrate (72 mg, 0.319 mmol) at room temperature for 2 hours. After completion of the reaction, the reaction solution was basified to pH 9-10 with aqueous sodium hydroxide and filtered through celite. The filtrate was extracted with ethyl acetate, and the extract was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform/methanol=6/1) to give the desired product (13 mg, 43% yield).

reactant | 2-[5-Bromo-3-nitro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide | 0.0616 mmol, 32 mg | BrC1=C(C(=NN(C1=O)CC(=O)NCC1=CC=NC=C1)[N+](=O)[O-])N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H27BrN6O4
reactant | tin (II) chloride dihydrate | 0.319 mmol, 72 mg | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 2-[3-Amino-5-bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide | 13 mg, 43% yield | NC1=NN(C(C(=C1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)Br)=O)CC(=O)NCC2=CC=NC=C2 | C22H29BrN6O2
